US08664241B2
To a solution of 5-nitro-3,3′-bipyridin-4-amine (LIX) (5 g, 23 mmol) in MeOH (20 mL) was added 10% Pd/C. The solution was purged with hydrogen and stirred at room temperature under hydrogen for 15 h. The suspension was filtered through Celite® and the concentrated under vacuum to produce 3,3′-bipyridine-4,5-diamine (LX) as off white solid (3.3 g, 17.7 mmol, 76% yield). 1H NMR (DMSO-d6, 500 MHz,): δ ppm 8.63-8.53 (m, 1H), 7.90-7.83 (m, 1H), 7.75 (s, 1H), 7.58 (s, 1H), 7.48-7.43 (m, 2H), 6.13 (bs, 2H), 5.31 (bs, 2H). ESIMS found C10H10N4 m/z 187.10 (M+H).

reactant | 5-nitro-3,3′-bipyridin-4-amine | 23 mmol, 5 g | [N+](=O)([O-])C=1C(=C(C=NC1)C=1C=NC=CC1)N | C10H8N4O2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3,3′-bipyridine-4,5-diamine | N1=CC(=C(C(=C1)N)N)C=1C=NC=CC1 | C10H10N4
